US04990511
Condensation between 4-benzylpiperidine (438 mg) and 2,4-dibenzyloxybenzoic acid is carried out in the same manner as in Example 4, i) to obtain 1-(2,4-dibenzyloxybenzoyl)-4-benzylpiperidine (1.0 g) in the colorless oily form.

reactant | 4-benzylpiperidine | 438 mg | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | 2,4-dibenzyloxybenzoic acid | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=CC(=C1)OCC1=CC=CC=C1 | C21H18O4
product | 1-(2,4-dibenzyloxybenzoyl)-4-benzylpiperidine | 1.0 g | C(C1=CC=CC=C1)OC1=C(C(=O)N2CCC(CC2)CC2=CC=CC=C2)C=CC(=C1)OCC1=CC=CC=C1 | C33H33NO3
